US09388189B2
(S)-2-(1-((5-(2-Fluorophenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(2-Fluorophenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (35 mg, 0.06 mmol) was treated with trifluoroacetic acid (600 μl, 7.79 mmol) and a solution of ammonia (7N in methanol, 600 μl, 4.2 mmol) according to the method described in Example 27 to give 15 mg (54% yield) of the title compound as a white solid. Purity 89%.

reactant | (S)-2-(1-((5-(2-Fluorophenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.06 mmol, 35 mg | FC1=C(C=CC=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C33H36FN7O2Si
reactant | trifluoroacetic acid | 7.79 mmol, 600 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 4.2 mmol, 7N, 600 μl | N | H3N
product | (S)-2-(1-((5-(2-Fluorophenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 15 mg, 54% yield | FC1=C(C=CC=C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C27H22FN7O
